US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide hydrochloride
To a suspension of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide (1.42 g, 2.55 mmol) in ethanol (14 mL) and water (2 mL) was added and dissolved therein 6N hydrochloric acid (510 μL, 3.06 mmol), and the solution was concentrated to a half amount, and left standing for 1 hr. The precipitate was collected by filtration to give white crystals. The white crystals were suspended in ethanol (50 mL) again, 6N hydrochloric acid (205 μL, 1.53 mmol) was added, and the mixture was dissolved at 70° C. The solution was left standing at room temperature for 6 hr. The precipitate was collected by filtration to give a white solid. The white solid (850 mg) was dissolved in ethyl acetate, tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The residue was suspended in ethanol (20 mL), heated to 80° C. and dissolved by dropwise addition of 6N hydrochloric acid (358 μL, 2.15 mmol). The solution was allowed to gradually cool to 50° C., and the mixture was stirred overnight. The precipitate was collected by filtration and washed with ethanol to give a white solid. The white solid was suspended in methyl ethyl ketone (10 mL), and the mixture was stirred at 50° C. overnight. The precipitate was collected by filtration and washed with methyl ethyl ketone to give the title compound (590 mg, 39%) as white crystals.

reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 2.55 mmol, 1.42 g | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O)F)C1 | C30H23F2N5O4
reactant | hydrochloric acid | 3.06 mmol, 6N, 510 μL | Cl | ClH
reactant | hydrochloric acid | 1.53 mmol, 6N, 205 μL | Cl | ClH
reactant | hydrochloric acid | 2.15 mmol, 6N, 358 μL | Cl | ClH
solvent | ethanol | 14 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide hydrochloride | 590 mg, 39% | Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O)F)C1 | InChI=1S/C30H23F2N5O4.ClH/c1-17-2-11-23(30(40)37(17)21-8-5-19(31)6-9-21)29(39)33-20-7-12-25(24(32)14-20)41-22-10-13-27-34-26(16-36(27)15-22)35-28(38)18-3-4-18;/h2,5-16,18H,3-4H2,1H3,(H,33,39)(H,35,38);1H
